US05440044
2-[3,5-bis-(Methoxycarbonyl)-benzoyl]-6-[(1E)-(3RS)-3-hydroxy-1-undecenyl]-pyridine
Under the conditions of example 1B, 1 g of 2-bromo-6-[(1E)(3RS)-3-hydroxy-1-undecenyl)-pyridine in 10 ml of tetrahydrofuran is mixed with 4.26 ml of n-butyllithium (1.6 molar in hexane) and 807 mg of 1,3,5-benzenetricarboxylic acid trimethylester in 6 ml of tetrahydrofuran, worked up and chromatographed on silica gel with hexane/ethyl acetate=95/5 to 75/25. 203 mg of oily crude product is obtained, which is subjected to complete purification of the high-pressure liquid chromatography on silanized silica gel (RP 18 material) with methanol/H2O=9:1. 74 mg of the title compound is thus obtained as colorless oil.

reactant | 2-bromo-6-[(1E)(3RS)-3-hydroxy-1-undecenyl)-pyridine | 1 g | BrC1=NC(=CC=C1)\C=C\C(CCCCCCCC)O | C16H24BrNO
reactant | n-butyllithium | 1.6 molar, 4.26 ml | C(CCC)[Li]
reactant | 1,3,5-benzenetricarboxylic acid trimethylester | 807 mg | COC(=O)C1=CC(=CC(=C1)C(=O)OC)C(=O)OC | C12H12O6
solvent | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 6 ml | O1CCCC1 | C4H8O
product | 2-[3,5-bis-(Methoxycarbonyl)-benzoyl]-6-[(1E)-(3RS)-3-hydroxy-1-undecenyl]-pyridine | 203 mg | COC(=O)C=1C=C(C(=O)C2=NC(=CC=C2)\C=C\C(CCCCCCCC)O)C=C(C1)C(=O)OC | C27H33NO6
